US04766125
A mixture of 3.3 parts of ethyl 1-[4,4-bis(4-fluorophenyl)butyl]-4-[2-[(2,6-dichlorophenyl)amino]-2-oxoethyl]-2-piperazinecarboxylate and 60 parts of a hydrochloric acid solution 12N was stirred for 8 hours at 100° C. in an oil-bath. 2-Propanone was added whereupon a solution was obtained. The pH was adjusted to 5 with sodium hydrogen carbonate and the 2-propanone was evaporated: a sticky oil in water was remained. The aqueous phase was decanted and the sticky oil was taken up in 24 parts of 4-methyl-2-pentanone while warming. The solid product was filtered off and boiled in 120 parts of acetonitrile. After cooling for a while, the less pure product was filtered off and the filtrate was cooled. The product was filtered off and dried, yielding 0.31 parts of 1-[4,4-bis(4-fluorophenyl)butyl]-4-[2-[(2,6-dichlorophenyl)amino]-2-oxoethyl]-2-piperazinecarboxylic acid; mp. 204.3° C. (compound 172).

reactant | ethyl 1-[4,4-bis(4-fluorophenyl)butyl]-4-[2-[(2,6-dichlorophenyl)amino]-2-oxoethyl]-2-piperazinecarboxylate | FC1=CC=C(C=C1)C(CCCN1C(CN(CC1)CC(=O)NC1=C(C=CC=C1Cl)Cl)C(=O)OCC)C1=CC=C(C=C1)F | C31H33Cl2F2N3O3
reactant | hydrochloric acid | 12N | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 2-Propanone | CC(C)=O | C3H6O
product | 1-[4,4-bis(4-fluorophenyl)butyl]-4-[2-[(2,6-dichlorophenyl)amino]-2-oxoethyl]-2-piperazinecarboxylic acid | FC1=CC=C(C=C1)C(CCCN1C(CN(CC1)CC(=O)NC1=C(C=CC=C1Cl)Cl)C(=O)O)C1=CC=C(C=C1)F | C29H29Cl2F2N3O3
